US03947465
EXAMPLE 2. 3-triethylsilyl-2-oxazolidinone (TMSO)
Following the previous example, but replacing the trimethylchlorosilane with triethylchlorosilane (63.3 g; 0.42 mol) and operating under similar conditions, the result is the compound of the above heading; a colorless fluid liquid, obtained with a similar yield. 2-oxazolidinone, calculated: 42.82%; found; 42.70%. Distills at 100°C between 2 and 4 mm.

reactant | triethylchlorosilane | 0.42 mol, 63.3 g | C(C)[Si](Cl)(CC)CC | C6H15ClSi
reactant | 2-oxazolidinone | O1C(NCC1)=O | C3H5NO2
product | 3-triethylsilyl-2-oxazolidinone | C(C)[Si](N1C(OCC1)=O)(CC)CC | C9H19NO2Si
